US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, 2-benzo[1,3]dioxol-5-yl-ethylamine and DIEA to give (2-benzo[1,3]dioxol-5-yl-ethylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 404 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | 2-benzo[1,3]dioxol-5-yl-ethylamine | O1COC2=C1C=CC(=C2)CCN | C9H11NO2
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | (2-benzo[1,3]dioxol-5-yl-ethylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | O1COC2=C1C=CC(=C2)CCNC=2S\C(\C(N2)=O)=C/C=2C=C1C=CC=NC1=CC2 | C22H17N3O3S
